US04780477
To a suspension of 0.91 g of 1-(2-diisopropylaminoethyl)isatin and 1.00 g of 4-cyclohexylsemicarbazide hydrochloride in 17 ml of a mixture of ethanol and water (2:1) was added 0.42 g of sodium acetate, and the mixture was stirred for 17 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and an aqueous sodium bicarbonate solution was added to the residue. The precipitates were collected by filtration, washed with water, and recrystallized from aqueous ethanol to obtain 0.99 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-cyclohexylsemicarbazone) having a melting point of 164°-166° C.

reactant | 1-(2-diisopropylaminoethyl)isatin | 0.91 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C16H22N2O2
reactant | 4-cyclohexylsemicarbazide hydrochloride | 1.00 g | Cl.C1(CCCCC1)NC(NN)=O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium acetate | 0.42 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-cyclohexylsemicarbazone) | 0.99 g | C1(CCCCC1)NC(N\N=C/1\C(N(C2=CC=CC=C12)CCN(C(C)C)C(C)C)=O)=O | C23H35N5O2
